US06002044
More specifically, in the case of the tetramethylammonium methyltriphenylborate, phenyl bromide is reacted with metallic magnesium in diethyl ether to prepare a Grignard reagent, the reagent is added dropwise to a solution containing boron trifluoride diethyl etherate dissolved in diethyl ether, the mixed solution is stirred for several hours to obtain triphenylborane, the triphenylborane obtained is added to methyllithium without passing through isolation to form lithium methyltriphenylborate, and tetramethylammonium bromide is added thereto to effect ion exchanging, as a result, tetramethylammonium methyltriphenylborate is obtained.

reactant | tetramethylammonium methyltriphenylborate | C[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[N+](C)(C)C
reactant | phenyl bromide | C1(=CC=CC=C1)Br | C6H5Br
reactant | magnesium | [Mg] | Mg
reactant | boron trifluoride diethyl etherate | B(F)(F)F.CCOCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | triphenylborane | C1(=CC=CC=C1)B(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15B
